US05514719
200 ml of 1,2-dichloroethane, 14 g (0.052 mol) of 2-bromo-3,4-dichlorobenzoic acid and 2 ml of N,N-dimethylformamide are introduced successively into a 500 ml round-bottomed flask. 11.5 ml of thionyl chloride (0.078 mol) are then run in dropwise with stirring and while cooling at 0° C. When the addition is finished, the reaction mixture is heated progressively to 55° C. over 2 hours and then evaporated to dryness. The residue is taken up in 50 ml of tetrahydrofuran and then poured dropwise into a solution containing 13 ml (0.15 mol) of N-methylethylamine in 50 ml of tetrahydrofuran maintained at a temperature below 10° C. When the addition is finished, the reaction mixture is stirred at room temperature for one hour and then evaporated to dryness. The residue is taken up in dichloromethane and washed successively with 1N HCl and distilled water. After drying over magnesium sulfate, the organic phase is evaporated under reduced pressure to provide 12.4 g (yield: 80%) of N-ethyl-N-methyl-2-bromo-3,4-dichlorobenzamide in the form of a white solid melting at 71° C.

reactant | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
reactant | 2-bromo-3,4-dichlorobenzoic acid | 0.052 mol, 14 g | BrC1=C(C(=O)O)C=CC(=C1Cl)Cl | C7H3BrCl2O2
reactant | thionyl chloride | 0.078 mol, 11.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylethylamine | 0.15 mol, 13 ml | CNCC | C3H9N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-ethyl-N-methyl-2-bromo-3,4-dichlorobenzamide | 12.4 g, yield: 80% | C(C)N(C(C1=C(C(=C(C=C1)Cl)Cl)Br)=O)C | C10H10BrCl2NO
